US03976786
Sodium hydride (50% in mineral oil; 1.44 g.), followed by ethyl iodide (3.6 ml.), were added, in small portions during 2 minutes, to a warm stirred solution of 3',5'-dinitroacetanilide (6.75 g.) in dimethylformamide (20 ml.). The mixture was heated on the steam bath for 150 minutes, then cooled, poured into water (400 ml.) and extracted with ethyl acetate (3 × 100 ml.). The combined organic extracts were washed with water, dried over anhydrous magnesium sulphate and evaporated to dryness. The residue was purified by chromatography on alumina (150 g.) using benzene as the eluant. The fractions containing the required product were combined, evaporated to dryness and the residue crystallised from ethanol, to give 3',5'-dinitro-N-ethylacetanilide (4.2 g.), m.p. 126°-127°C.

reactant | Sodium hydride | 1.44 g | [H-].[Na+]
reactant | ethyl iodide | 3.6 ml | C(C)I | C2H5I
reactant | 3',5'-dinitroacetanilide | 6.75 g | [N+](=O)([O-])C=1C=C(NC(C)=O)C=C(C1)[N+](=O)[O-] | C8H7N3O5
reactant | water | 400 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3',5'-dinitro-N-ethylacetanilide | 4.2 g | [N+](=O)([O-])C=1C=C(N(C(C)=O)CC)C=C(C1)[N+](=O)[O-] | C10H11N3O5
